US05602252
9-Ethyl-7-methyl-4-[N-(2-(dimethylamino)ethyl)methylamino]imidazo-[5,1-h]pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with N,N,N'-trimethylethylenediamine followed by reaction with 2-ethyl-4-methylimidazole, reduction with tin (II) chloride and cyclization with carbonyldiimidazole.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | N,N,N'-trimethylethylenediamine | CN(CCNC)C | C5H14N2
reactant | 2-ethyl-4-methylimidazole | C(C)C=1NC=C(N1)C | C6H10N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 9-Ethyl-7-methyl-4-[N-(2-(dimethylamino)ethyl)methylamino]imidazo-[5,1-h]pteridin-6(5H)-one | C(C)C1=NC(=C2C(NC=3C(=NC=NC3N21)N(CCN(C)C)C)=O)C | C16H23N7O
